US05604218
To a stirring solution of methyl [2-(N,N'-di-tertbutyloxycarbonylguanidino)ethyl]thioacetate (1.24 g, 3.17 mmol) in ethanol (15 mL) at room temperature (15 mL) was added 10% aqueous sodium hydroxide solution (3 mL). After 2 h, The mixture was concentrated, and the residue was treated with 10% aqueous HCl solution. The resulting mixture was extracted with ethyl acetate, and the organic extracts were washed with water and brine, dried over sodium sulfate, and concentrated to afford 1.06 g of [2-(N,N'-di-tert-butyloxycarbonylguanidino)ethyl]thioacetic acid as a white solid. 1H NMR (CDCl3) δ1.50 (s, 18), 2.89 (t, 2, J=8), 3.34 (s, 2), 3.72 (m, 2), 8.82 (br s, 2).

reactant | methyl [2-(N,N'-di-tertbutyloxycarbonylguanidino)ethyl]thioacetate | 3.17 mmol, 1.24 g | C(C)(C)(C)OC(=O)N(C(=NC(=O)OC(C)(C)C)N)CCCC(=S)OC | C16H29N3O5S
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | [2-(N,N'-di-tert-butyloxycarbonylguanidino)ethyl]thioacetic acid | 1.06 g | C(C)(C)(C)OC(=O)N(C(=NC(=O)OC(C)(C)C)N)CCCC(=S)O | C15H27N3O5S
